US07141596B2
Step 2. 4-Bromo-3-methylbenzaldehyde
To a solution of dimethyl sulfoxide (21.2 mL, 0.298 mol) in DCM (150 mL) was added oxalyl chloride (5.0 mL, 0.060 mol) at −78° C. under an atmosphere of nitrogen. The resulting mixture was stirred for 20 min. A solution of (4-bromo-3-methylphenyl)methanol (6.0 g, 0.030 mol) in methylene chloride (50 mL) was cannulated into the reaction flask. After stirring for 1.0 h, triethylamine (21 mL, 0.15 mol) was added. The reaction mixture was stirred at −78° C. for 1 h, warmed to room temperature for 1 h. The reaction was quenched with 1 N HCl solution, the aqueous phase was separated and extracted with methylene chloride once. The combined organic solutions were washed with brine, dried over sodium sulfate, filtered, concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (5.7 g, 96%). 1H NMR (400 MHz, CDCl3): δ 9.96 (s, 1H), 7.73 (m, 1H), 7.71 (s, 1H), 7.55 (m, 1H), 2.49 (s, 3H).

reactant | dimethyl sulfoxide | 0.298 mol, 21.2 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.060 mol, 5.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4-bromo-3-methylphenyl)methanol | 0.030 mol, 6.0 g | BrC1=C(C=C(C=C1)CO)C | C8H9BrO
reactant | triethylamine | 0.15 mol, 21 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-3-methylbenzaldehyde | 5.7 g, 96% | BrC1=C(C=C(C=O)C=C1)C | C8H7BrO
